US07371773B2
Production of (Z)-2-(3,4-dimethoxy-phenyl)-3-[3-fluoro-4-(2-methoxy-ethoxymethoxy)-phenyl]-acrylonitrile (Compound 58)
The hydroxyl group of 3-fluoro-4-hydroxybenzaldehyde (3.92 g) was protected by use of 2-methoxyethoxymethyl chloride (3.49 g) in accordance with (production process 1), to thereby produce an MEM form (4.98 g, yield: 78%). The resultant MEM form (4.98 g) and 3,4-dimethoxybenzyl cyanide (3.87 g) were subjected to condensation in accordance with process A of (production process 2), to thereby produce the target product (6.55 g, yield: 78%).

reactant | 3-fluoro-4-hydroxybenzaldehyde | 3.92 g | FC=1C=C(C=O)C=CC1O | C7H5FO2
reactant | 2-methoxyethoxymethyl chloride | 3.49 g | COCCOCCl | C4H9ClO2
reactant | 3,4-dimethoxybenzyl cyanide | 3.87 g | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-2-(3,4-dimethoxy-phenyl)-3-[3-fluoro-4-(2-methoxy-ethoxymethoxy)-phenyl]-acrylonitrile | 6.55 g, yield: 78% | COC=1C=C(C=CC1OC)/C(/C#N)=C/C1=CC(=C(C=C1)OCOCCOC)F | C21H22FNO5
